US07405210B2
Preparation 26: 5-Bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester
Route A: To a solution of 3-(2-bromo-5-nitropyridin-4-yl)-2-oxopropionic acid ethyl ester (Preparation 25, 3.38 g, 10.7 mmol) in THF (50 mL) and ethanol (100 mL) was added saturated ammonium chloride solution (50 mL) and iron powder (3.57 g, 64.0 mmol) and the reaction heated under reflux for 2 h. The reaction mixture was filtered through celite and washed several times with ethyl acetate. The solvent was removed in vacuo and the remainder partitioned between saturated sodium hydrogen carbonate solution (100 mL) and ethyl acetate (3×150 mL). The combined organic fractions were dried (MgSO4) and concentrated in vacuo to give the title compound as a brown solid. δH (CD3OD): 1.42 (3H, t), 4.43 (2H, q), 7.14 (1H, s), 7.85 (1H, s), 8.58 (1H, s); m/z (ES+)=269 [M+H]+.

reactant | 3-(2-bromo-5-nitropyridin-4-yl)-2-oxopropionic acid ethyl ester | 10.7 mmol, 3.38 g | C(C)OC(C(CC1=CC(=NC=C1[N+](=O)[O-])Br)=O)=O | C10H9BrN2O5
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | iron | 64.0 mmol, 3.57 g | [Fe] | Fe
product | 5-Bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C(=CN=C(C2)Br)N1 | C10H9BrN2O2
